*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-221
* Inductance = 0.22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-221_freq port1 port2 PARAMS: Cpar=8.28pF Ind=0.22uH
X1 port1 port2 Model1A PARAMS:
+ R1=18.7
+ R2=0.00045
+ C= {Cpar}
+ K1=0.000045
+ K2=0.0242
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=2.0737E-07
+ Is=258.850839
+ a=0.74522047
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=221.286583
.ends XAL1010-221_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-221
* Inductance = 0.22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-221_sat port1 port2 PARAMS: Cpar=8.28pF Ind=0.22uH
X1 port1 port2 Model1C PARAMS:
+ R1=18.7
+ R2=0.00045
+ C= {Cpar}
+ K1=0.000045
+ K2=0.0242
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=2.0737E-07
+ Is=258.850839
+ a=0.74522047
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=221.286583
.ends XAL1010-221_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-451
* Inductance = 0.45uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-451_freq port1 port2 PARAMS: Cpar=12.3pF Ind=0.45uH
X1 port1 port2 Model1A PARAMS:
+ R1=17.75
+ R2=0.00065
+ C= {Cpar}
+ K1=0.0000355
+ K2=0.0515
+ K3= {Ind}
+ K4=0.0041
+ K5=0.000001
+ L=4.6105E-07
+ Is=173.166344
+ a=0.72090489
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=351.28766
.ends XAL1010-451_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-451
* Inductance = 0.45uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-451_sat port1 port2 PARAMS: Cpar=11.83pF Ind=0.45uH
X1 port1 port2 Model1C PARAMS:
+ R1=17.75
+ R2=0.00065
+ C= {Cpar}
+ K1=0.0000355
+ K2=0.0515
+ K3= {Ind}
+ K4=0.0041
+ K5=0.000001
+ L=4.6105E-07
+ Is=173.166344
+ a=0.72090489
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=351.28766
.ends XAL1010-451_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-681_freq port1 port2 PARAMS: Cpar=13.4pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=14
+ R2=0.00087
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0775
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=7.1507E-07
+ Is=128.385644
+ a=0.72942215
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=487.318101
.ends XAL1010-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-681_sat port1 port2 PARAMS: Cpar=13.40pF Ind=0.68uH
X1 port1 port2 Model1C PARAMS:
+ R1=14
+ R2=0.00087
+ C= {Cpar}
+ K1=0.000001
+ K2=0.0775
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=7.1507E-07
+ Is=128.385644
+ a=0.72942215
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=487.318101
.ends XAL1010-681_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-102_freq port1 port2 PARAMS: Cpar=16.5pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=18.9
+ R2=0.001
+ C= {Cpar}
+ K1=0.000582
+ K2=0.097
+ K3= {Ind}
+ K4=0.0082
+ K5=0.054
+ L=9.6416E-07
+ Is=113.52941
+ a=0.77157594
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.543955
.ends XAL1010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-102_sat port1 port2 PARAMS: Cpar=14.53pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=18.9
+ R2=0.001
+ C= {Cpar}
+ K1=0.000582
+ K2=0.097
+ K3= {Ind}
+ K4=0.0082
+ K5=0.054
+ L=9.6416E-07
+ Is=113.52941
+ a=0.77157594
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.543955
.ends XAL1010-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-152_freq port1 port2 PARAMS: Cpar=17.5pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=16.2
+ R2=0.0016
+ C= {Cpar}
+ K1=0.000023
+ K2=0.153
+ K3= {Ind}
+ K4=0.0082
+ K5=1.99
+ L=1.3327E-06
+ Is=106.098404
+ a=0.71582938
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=738.8708
.ends XAL1010-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-152_sat port1 port2 PARAMS: Cpar=15.78pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=16.2
+ R2=0.0016
+ C= {Cpar}
+ K1=0.000023
+ K2=0.153
+ K3= {Ind}
+ K4=0.0082
+ K5=1.99
+ L=1.3327E-06
+ Is=106.098404
+ a=0.71582938
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=738.8708
.ends XAL1010-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-222_freq port1 port2 PARAMS: Cpar=25.3pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=49.4
+ R2=0.00255
+ C= {Cpar}
+ K1=0.000001
+ K2=0.225
+ K3= {Ind}
+ K4=0.0114
+ K5=0.5
+ L=2.0294E-06
+ Is=91.7241715
+ a=0.68015561
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=646.499497
.ends XAL1010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-222_sat port1 port2 PARAMS: Cpar=23.18pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=49.4
+ R2=0.00255
+ C= {Cpar}
+ K1=0.000001
+ K2=0.225
+ K3= {Ind}
+ K4=0.0114
+ K5=0.5
+ L=2.0294E-06
+ Is=91.7241715
+ a=0.68015561
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=646.499497
.ends XAL1010-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-332_freq port1 port2 PARAMS: Cpar=16.7pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.7
+ R2=0.0037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.351
+ K3= {Ind}
+ K4=0.0164
+ K5=1
+ L=3.0049E-06
+ Is=65.7585274
+ a=0.75037196
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1551.54182
.ends XAL1010-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-332_sat port1 port2 PARAMS: Cpar=15.30pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=7.7
+ R2=0.0037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.351
+ K3= {Ind}
+ K4=0.0164
+ K5=1
+ L=3.0049E-06
+ Is=65.7585274
+ a=0.75037196
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1551.54182
.ends XAL1010-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-472_freq port1 port2 PARAMS: Cpar=15.7pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=11
+ R2=0.0052
+ C= {Cpar}
+ K1=0.000001
+ K2=0.531
+ K3= {Ind}
+ K4=0.0888
+ K5=0.000001
+ L=4.5199E-06
+ Is=58.5676268
+ a=0.72679712
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2126.5461
.ends XAL1010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-472_sat port1 port2 PARAMS: Cpar=14.83pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=11
+ R2=0.0052
+ C= {Cpar}
+ K1=0.000001
+ K2=0.531
+ K3= {Ind}
+ K4=0.0888
+ K5=0.000001
+ L=4.5199E-06
+ Is=58.5676268
+ a=0.72679712
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2126.5461
.ends XAL1010-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-562
* Inductance = 6.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-562_freq port1 port2 PARAMS: Cpar=18.1pF Ind=6.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=15.1
+ R2=0.0063
+ C= {Cpar}
+ K1=0.000181
+ K2=0.632
+ K3= {Ind}
+ K4=0.0888
+ K5=0.1
+ L=6.0406E-06
+ Is=50.2686118
+ a=0.7229238
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2241.76883
.ends XAL1010-562_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-562
* Inductance = 6.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-562_sat port1 port2 PARAMS: Cpar=14.59pF Ind=6.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=15.1
+ R2=0.0063
+ C= {Cpar}
+ K1=0.000181
+ K2=0.632
+ K3= {Ind}
+ K4=0.0888
+ K5=0.1
+ L=6.0406E-06
+ Is=50.2686118
+ a=0.7229238
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2241.76883
.ends XAL1010-562_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-682_freq port1 port2 PARAMS: Cpar=18.3pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=18.1
+ R2=0.0081
+ C= {Cpar}
+ K1=0.000001
+ K2=0.722
+ K3= {Ind}
+ K4=0.127
+ K5=0.000001
+ L=6.6494E-06
+ Is=51.2474103
+ a=0.63572678
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2419.72385
.ends XAL1010-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-682_sat port1 port2 PARAMS: Cpar=17.39pF Ind=6.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=18.1
+ R2=0.0081
+ C= {Cpar}
+ K1=0.000001
+ K2=0.722
+ K3= {Ind}
+ K4=0.127
+ K5=0.000001
+ L=6.6494E-06
+ Is=51.2474103
+ a=0.63572678
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2419.72385
.ends XAL1010-682_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-822_freq port1 port2 PARAMS: Cpar=19.3pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=11.9
+ R2=0.0117
+ C= {Cpar}
+ K1=0.000001
+ K2=1.13
+ K3= {Ind}
+ K4=0.138
+ K5=0.000001
+ L=8.0271E-06
+ Is=41.191869
+ a=0.70446578
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3631.60454
.ends XAL1010-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-822_sat port1 port2 PARAMS: Cpar=18.48pF Ind=8.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=11.9
+ R2=0.0117
+ C= {Cpar}
+ K1=0.000001
+ K2=1.13
+ K3= {Ind}
+ K4=0.138
+ K5=0.000001
+ L=8.0271E-06
+ Is=41.191869
+ a=0.70446578
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3631.60454
.ends XAL1010-822_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-103_freq port1 port2 PARAMS: Cpar=17.6pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=14.8
+ R2=0.0134
+ C= {Cpar}
+ K1=0.000001
+ K2=1.16
+ K3= {Ind}
+ K4=0.096
+ K5=0.000001
+ L=1.0784E-05
+ Is=32.8752233
+ a=0.75899116
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3648.64971
.ends XAL1010-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-103_sat port1 port2 PARAMS: Cpar=17.18pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=14.8
+ R2=0.0134
+ C= {Cpar}
+ K1=0.000001
+ K2=1.16
+ K3= {Ind}
+ K4=0.096
+ K5=0.000001
+ L=1.0784E-05
+ Is=32.8752233
+ a=0.75899116
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3648.64971
.ends XAL1010-103_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1010-153_freq port1 port2 PARAMS: Cpar=17pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=14.8
+ R2=0.0169
+ C= {Cpar}
+ K1=0.000001
+ K2=2.29
+ K3= {Ind}
+ K4=0.101
+ K5=0.000001
+ L=1.5129E-05
+ Is=26.7598747
+ a=0.76401307
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6459.14162
.ends XAL1010-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-45MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1010-153_sat port1 port2 PARAMS: Cpar=16.74pF Ind=15uH
X1 port1 port2 Model1C PARAMS:
+ R1=14.8
+ R2=0.0169
+ C= {Cpar}
+ K1=0.000001
+ K2=2.29
+ K3= {Ind}
+ K4=0.101
+ K5=0.000001
+ L=1.5129E-05
+ Is=26.7598747
+ a=0.76401307
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6459.14162
.ends XAL1010-153_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 N001 Lin {R2}
R3 Lout N001 {PkZ}
C1 N002 N001 {C}
R1 Lout N002 {R1}
E1 N003 N001 N004 0 1
G1 0 N004 VALUE={{L*Is}*tanh((I(E1)/{Is})**{a})**{1/a}}
L1 N004 0 1
E2 N003 Lout N005 0 1
G2 0 N005 VALUE={{L*Is}*tanh((I(E2)/{Is})**{a})**{1/a}}
L2 N005 0 1
.ends Model1C
*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
