.SUBCKT C1206C150J5GACTU_KEMET 1 6
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
*KEMET Model RLC Cerm
R1 3 4 2419.72827148438
R2 2 5 19.0200004577637
R3 1 6 99999997952
L1 1 2 3.24999971379469E-11
L2 2 3 6.17499945620992E-10
C1 4 6 1.49999995063821E-11
C2 5 6 5.99999986588955E-14
.ENDS
