*KEMET Model RLC Cerm
*Temp = 25°C, Bias = 0VDC, Center Frequency = 10000 Hz
.SUBCKT C0201C150K8GAC 1 6
R1 3 4 2437.03295898438
R2 2 5 18.7199993133545
R3 1 6 99999997952
L1 1 2 3.03500002907242E-11
L2 2 3 5.7665000552376E-10
C1 4 6 1.49999995063821E-11
C2 5 6 5.00000007450581E-14
.ENDS C0201C150K8GAC
